US08048878B2
Synthesis of N1-allyl-1-(3,4,5-trifluorophenyl)ethane-1,2-diamine
Allylamine (9.8 mL) was added to a solution of 1,2,3-trifluoro-5-((E)-2-nitrovinyl)benzene (6.6 g) in THF (30 mL). The reaction solution was stirred at room temperature for 2.5 hours and then concentrated under reduced pressure. Zinc powder (10.6 g) was added to a solution of the residue in ethanol (35 mL) and concentrated hydrochloric acid (35 mL) at 0° C., and the reaction solution was stirred at 0° C. for 30 minutes and at room temperature for 15 hours. The reaction solution was added to ice-cold aqueous ammonia, and the reaction mixture was subjected to extraction with chloroform. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 7.52 g of a crude product of the title compound. The property values of the compound are as follows.

reactant | Allylamine | 9.8 mL | C(C=C)N | C3H7N
reactant | 1,2,3-trifluoro-5-((E)-2-nitrovinyl)benzene | 6.6 g | FC1=C(C(=CC(=C1)\C=C\[N+](=O)[O-])F)F | C8H4F3NO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N1-allyl-1-(3,4,5-trifluorophenyl)ethane-1,2-diamine | 7.52 g | C(C=C)NC(CN)C1=CC(=C(C(=C1)F)F)F | C11H13F3N2
